US04997840
A mixture of 2-[2-(N-methylformamido)phenyl]-2oxoethyl benzoate (84 g), potassium carbonate (39.2 g) and dry dimethylformamide (1100 ml) was stirred at 50 to 60° for 4 hours. The solvent was removed under reduced pressure at 60° and the residue was triturated with water (700 ml). The resultant solid was collected by filtration and washed with water (4×250 ml) followed by diethyl ether (250 ml) to give the novel compound 1-methyl-4-oxo-1,4-dihydroquinol-3-yl benzoate, m.p.2)5-21 7°.

reactant | 2-[2-(N-methylformamido)phenyl]-2oxoethyl benzoate | 84 g | C(C1=CC=CC=C1)(=O)OCC(=O)C1=C(C=CC=C1)N(C=O)C | C17H15NO4
reactant | potassium carbonate | 39.2 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 1100 ml | CN(C=O)C | C3H7NO
product | 1-methyl-4-oxo-1,4-dihydroquinol-3-yl benzoate | C(C1=CC=CC=C1)(=O)OC1=CN(C2=CC=CC=C2C1=O)C | C17H13NO3
